US05639888
Preparation of Benzoyl Chloride
α, α,α-Trichlorotoluene (19.6 g; 0.1M), ferric chloride (4.1 g; 0.02M) and 1,2-dichloroethane (500 ml) were stirred under reflux under heavier than water Dean and Stark apparatus. Water (1.8 g) was then added to the Dean and Stark apparatus and the mixture was refluxed for 4 hours. By this time, all of the water had been consumed. The mixture was then filtered through Hyflo (Trade Mark) to remove the ferric chloride.

reactant | α, α,α-Trichlorotoluene | 0.1M, 19.6 g | ClC(C1=CC=CC=C1)(Cl)Cl | C7H5Cl3
reactant | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
reactant | Water | 1.8 g | O | H2O
product | Benzoyl Chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
